US05668127
To a green heterogeneous mixture of 1-(2'-hydroxybutyl)-2,4-dinitroimidazole (500 mg, 2.17 mmol, Eur. J. Med. Chem. 24:631-633 (1989)) and 258 mg (2.60 mmol) of CuI in 10 mL of dry DMF was added 767 μL (4.34 mmol) of octyl isocyanate. The mixture was stirred for two hours, diluted with 40 mL of ethyl ether and the organic solution was washed with water, dried over magnesium sulfate and concentrated. The crude product was purified by chromatography on silica gel (hexane:ethyl acetate, 6:1) to give 502 mg (60%) of n-octyl carbamate. 1H NMR (CDCl3) δ0.86 (t, 3H), 1.11 (t, 3H), 1.28(m, 10H), 1.40 (m, 2H), 1.75 (m, 2H), 3.05 (m, 2H), 4.42 (q, 1H), 4.75 (t, 1H), 4.90 (q, 1H), 5.10 (m, 1H), 7.88 (s, 1H); 13C NMR (CDCl3) δ9.32, 14.01, 22.54, 25.10, 26.54, 29.06, 29.63, 31.69, 40.04, 41.08, 54.28, 72.65, 124.14, 155.20: MS 386 (M+)

reactant | 1-(2'-hydroxybutyl)-2,4-dinitroimidazole | 2.17 mmol, 500 mg | OC(CN1C(=NC(=C1)[N+](=O)[O-])[N+](=O)[O-])CC | C7H10N4O5
reactant | octyl isocyanate | 4.34 mmol, 767 μL | C(CCCCCCC)N=C=O | C9H17NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl ether | 40 mL | C(C)OCC | C4H10O
catalyst | CuI | 2.60 mmol, 258 mg | [Cu]I
product | n-octyl carbamate | 502 mg, 60% | C(N)(OCCCCCCCC)=O | C9H19NO2
